US06339045B1
Production of N-(1-methoxy-2,2,2-trifluoroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-88)
4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide was dissolved in benzene and mixed with 0.36 g (0.0026×1.2 mol) of trifluoroacetaldehyde hydrate, followed by treating the obtained solution under reflux for about 5 hours. The reaction solution was concentrated and then distributed in ethyl acetate-saturated sodium bicarbonate water, followed by washing with saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)N | C14H11F3N2O3
reactant | trifluoroacetaldehyde hydrate | 1.2 mol, 0.36 g | O.FC(C=O)(F)F
reactant | benzene | C1=CC=CC=C1 | C6H6
product | N-(1-methoxy-2,2,2-trifluoroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | COC(C(F)(F)F)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C17H14F6N2O4
